US04882339
A solution 5.0 g of 4-(cyclohexylamino)-1-acetoxy-2-methoxynaphthalene in 75 ml of acetic anhydride is stirred with 500 mg of zinc chloride in at 160°-170° C. for 2 hours. The reaction is cooled, filtered and evaporated under reduced pressure. The residue is taken up in 300 ml of diethyl ether and washed with 100 ml of water and then with 100 ml of brine. The organic solvent is dried over magnesium sulfate, filtered, and evaporated to dryness. The residue is crystallized from 120 ml of 2:1 diethyl ether-hexane to yield 4-(N-acetylcyclohexylamino)-1-acetoxy-2-methoxynaphthalene, m.p. 137°-139° C.

reactant | 4-(cyclohexylamino)-1-acetoxy-2-methoxynaphthalene | 5.0 g | C1(CCCCC1)NC1=CC(=C(C2=CC=CC=C12)OC(C)=O)OC | C19H23NO3
reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 500 mg | [Cl-].[Zn+2].[Cl-]
product | 4-(N-acetylcyclohexylamino)-1-acetoxy-2-methoxynaphthalene | C(C)(=O)N(C1=CC(=C(C2=CC=CC=C12)OC(C)=O)OC)C1CCCCC1 | C21H25NO4
